US07196104B2
Preparation AP: tert Butyl (6-bromopyridin-2-ylmethyl)-(1-hydroxymethyl-2-methyl-propyl)-carbamate
To a stirred solution of 2-[(6-bromo-2-pyridylmethyl)amino]-3-methyl-butanol (0.30 g, 1.10 mmol) in CH2Cl2 (5 mL) was added Boc2O (0.26 g, 1.21 mmol). The resulting solution was stirred for 15 h, concentrated by rotary evaporation and purified on silica gel (5:95 MeOH/CH2Cl2 and 10:90 MeOH/CH2Cl2) to afford the title compound as a pale yellow solid. EI-MS m/z 373 (M+H).

reactant | 2-[(6-bromo-2-pyridylmethyl)amino]-3-methyl-butanol | 1.10 mmol, 0.30 g | BrC1=CC=CC(=N1)CNC(CO)C(C)C | C11H17BrN2O
reactant | Boc2O | 1.21 mmol, 0.26 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | tert Butyl (6-bromopyridin-2-ylmethyl)-(1-hydroxymethyl-2-methyl-propyl)-carbamate | BrC1=CC=CC(=N1)CN(C(OC(C)(C)C)=O)C(C(C)C)CO | C16H25BrN2O3
